US09062076B2
A solution of methyl 2-methylbenzo[d]oxazole-4-carboxylate (0.63 g, 4.12 mmol) and 3,4-dimethoxybenzaldehyde (0.68 g, 4.12 mmol) in THF (25 mL) and t-BuOH (5 mL) was cooled to −50° C. under nitrogen and treated with a solution of t-BuOK in THF (1.0 mol/L, 4.94 mL, 4.94 mmol) at such a rate that the internal reaction temperature did not exceed −46° C. After 2 hours at −50° C., the cooling bath was removed and the mixture was stirred at room temperature for 12 h in the dark. Water was added and the mixture was made slightly acidic by addition of a 1N HCl solution then extracted with DCM. The organic layers were combined, washed with water and brine then dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by flash chromatography using petroleum ether: ethyl acetate 2:1 (v:v) as eluent to give (E)-methyl 2-(3,4-dimethoxystyryl)benzo[d]oxazole-4-carboxylate (0.30 g, 27%). LC-MS (ES-API); rt 9.25 min; m/z calculated for C19H17NO5 [M+H]+ 340.1, found 340.1.

reactant | methyl 2-methylbenzo[d]oxazole-4-carboxylate | 4.12 mmol, 0.63 g | CC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C10H9NO3
reactant | 3,4-dimethoxybenzaldehyde | 4.12 mmol, 0.68 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | t-BuOK | CC(C)(C)[O-].[K+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | t-BuOH | 5 mL | CC(C)(C)O | C4H10O
solvent | THF | 4.94 mmol, 1.0 mol/L, 4.94 mL | C1CCOC1 | C4H8O
product | (E)-methyl 2-(3,4-dimethoxystyryl)benzo[d]oxazole-4-carboxylate | 0.30 g, 27% | COC=1C=C(/C=C/C=2OC=3C(N2)=C(C=CC3)C(=O)OC)C=CC1OC | C19H17NO5
